US05434186
Preparation of 4-[6-[(3,4-Dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]hexyl]-3-(3-ethoxy-3-oxopropyl)benzenepentanoic Acid Ethyl Ester
Starting with 0.505 g (1.08 mmol) of 4-(6-bromohexyl)-3-(3-ethoxy-3-oxopropyl)benzenepentanoic acid ethyl ester from the preceding example, and 0.226 g (1.09 mmol) of 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one, the title compound (0.636 g; 99.3%) was obtained as a colorless oil, using the procedure of example 214.

reactant | 4-(6-bromohexyl)-3-(3-ethoxy-3-oxopropyl)benzenepentanoic acid ethyl ester | 1.08 mmol, 0.505 g | C(C)OC(CCCCC1=CC(=C(C=C1)CCCCCCBr)CCC(=O)OCC)=O | C24H37BrO4
reactant | 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one | 1.09 mmol, 0.226 g | OC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C12H14O3
product | 4-[6-[(3,4-Dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]hexyl]-3-(3-ethoxy-3-oxopropyl)benzenepentanoic Acid Ethyl Ester | 0.636 g, 99.3% | C(C)OC(CCCCC1=CC(=C(C=C1)CCCCCCOC1=C(C2=C(C(CCO2)=O)C=C1)CCC)CCC(=O)OCC)=O | C36H50O7
